US06894052B1
a) 1-(3,3-diphenylpropionyl)-4-(2-methoxyphenyl)piperazine (Compound 1A):
To a solution of 1.13 g of 3,3-diphenylpropionic acid and 1.06 g of 1-(2-methoxyphenyl)piperazine in 25 mL of N,N-dimethylformamide at a temperature within the range of 0-5° C., were added, in succession, 0.9 mL of 93% diethyl cyanophosphonate and 0.77 mL of triethylamine under stirring. The resultant solution was then stirred at room temperature for 5 h, poured into 250 mL of water and extracted with ethyl acetate. The organic phase was then washed with water, dried on anhydrous sodium sulphate, and evaporated to dryness under vacuum. The obtained oily residue was then puirified by flash-chromatography (chloroform-ethyl acetate 9:1). This procedure afforded the title compound (100%).

reactant | 3,3-diphenylpropionic acid | 1.13 g | C1(=CC=CC=C1)C(CC(=O)O)C1=CC=CC=C1 | C15H14O2
reactant | 1-(2-methoxyphenyl)piperazine | 1.06 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | diethyl cyanophosphonate | 0.9 mL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 0.77 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | water | 250 mL | O | H2O
product | 1-(3,3-diphenylpropionyl)-4-(2-methoxyphenyl)piperazine | 100% | C1(=CC=CC=C1)C(CC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C26H28N2O2
